US05753652
a) Quinoline-2-carbonyl-(L)-asparagine tert-butyl ester
Analogously to Example 100, 5.45 g (31.4 mmol) of quinaldic acid in 161 ml of THF are reacted with 7.08 g (34.3 mmol) of DCC, 4.63 g (34.3 mmol) of HOBT and 5.38 g (28.6 mmol) of (L)-asparagine tert-butyl ester (Bachem, Bubendorf/Switzerland). Filtration, extraction and column chromatography (SiO2, ethyl acetate/hexane 3:1) yields the pure title compound: TLC Rf (C')=0.15; tRet (V)=12.2 min; FAB-MS (M+H)+ =344.

reactant | quinaldic acid | 31.4 mmol, 5.45 g | C(C1=NC2=CC=CC=C2C=C1)(=O)O | C10H7NO2
reactant | DCC | 34.3 mmol, 7.08 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 34.3 mmol, 4.63 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (L)-asparagine tert-butyl ester | 28.6 mmol, 5.38 g | C(C)(C)(C)OC([C@@H](N)CC(N)=O)=O | C8H16N2O3
solvent | THF | 161 ml | C1CCOC1 | C4H8O
product | Quinoline-2-carbonyl-(L)-asparagine tert-butyl ester | C(C)(C)(C)OC([C@@H](NC(=O)C1=NC2=CC=CC=C2C=C1)CC(N)=O)=O | C18H21N3O4
